US08133995B2
Preparation of N-{4-[4-amino-7-formyl-6-(methoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea
The procedure used for the preparation of Intermediate AU was used to prepare the title compound by substituting Intermediate AV (N-{4-[4-amino-7-bromo-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea) for Intermediate AT (4-amino-7-bromo-5-{4-[({[2-fluoro-5-(trifluoromethyl)phenyl]amino}carbonyl)amino]phenyl}-N-(2,2,2-trifluoroethyl)-pyrrolo-[2,1-f][1,2,4]triazine-6-carboxamide). The title compound was obtained as isolated and was used without further purification. MS [M+H]+=503; LCMS RT=3.21 min.

reactant | N-{4-[4-amino-7-bromo-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoro-methyl)phenyl]urea | NC1=NC=NN2C1=C(C(=C2Br)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C22H17BrF4N6O2
reactant | AT | NC1=NC=NN2C1=C(C(=C2Br)C(=O)NCC(F)(F)F)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C23H15BrF7N7O2
product | N-{4-[4-amino-7-formyl-6-(methoxymethyl)-pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[2-fluoro-5-(trifluoromethyl)-phenyl]urea | NC1=NC=NN2C1=C(C(=C2C=O)COC)C2=CC=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F | C23H18F4N6O3
